US07368578B2
To a mixture of (3-methoxy-4-{[5-methyl-2-(3-nitrophenyl)-1,3-oxazol-4-yl]methoxy}phenyl)methanol (5.92 g) and toluene (250 ml) was added thionyl chloride (2.19 mL), and the mixture was heated under reflux for 1.5 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-2-(3-nitrophenyl)-1,3-oxazole (6.31 g, yield 100%) as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 166-168° C.

reactant | (3-methoxy-4-{[5-methyl-2-(3-nitrophenyl)-1,3-oxazol-4-yl]methoxy}phenyl)methanol | 5.92 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC(=CC=C1)[N+](=O)[O-])CO | C19H18N2O6
reactant | thionyl chloride | 2.19 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-2-(3-nitrophenyl)-1,3-oxazole | 6.31 g, yield 100% | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC(=CC=C2)[N+](=O)[O-])C=C1)OC | C19H17ClN2O5
